US07300945B2
5) Preparation of 2-(1H-Imidazole-2-yl)-thiazole-4-carbonitrile
To a solution of 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid amide (120 mg) in 2 mL of anhydrous pyridine is added 0.25 mL of POCl3 dropwise at 0° C. The reaction mixture is stirred at the same temperature for 2 hours, poured into ice water, neutralized with solid NaHCO3, and extracted with 5% MeOH in CH2Cl2. The extract is washed with brine, dried and concentrated to a solid. 1H NMR (DMSO): δ 13.45 (br, 1H), 8.82 (s, 1H), 7.38 (s, 1H), 7.12 (s, 1H). LRMS calcd 176, found 177 (MH+).

reactant | 2-(1H-Imidazole-2-yl)-thiazole-4-carboxylic acid amide | 120 mg | N1C(=NC=C1)C=1SC=C(N1)C(=O)N | C7H6N4OS
reactant | POCl3 | 0.25 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-(1H-Imidazole-2-yl)-thiazole-4-carbonitrile | N1C(=NC=C1)C=1SC=C(N1)C#N | C7H4N4S
